US07381719B2
Add lithium aluminum hydride (10.00 g, 264 mmol) to anhydrous tetrahydrofuran (250 mL) and cool the slurry to 0° C. Dissolve 2-(4-hydroxy-phenyl)-2-methyl-propionitrile (9.90 g, 61.4 mmol) in anhydrous tetrahydrofuran (100 mL) and slowly, via cannula add this solution to the above slurry at 0° C. under nitrogen. Allow the reaction to warm to room temperature and stir for 2 h under nitrogen. Then heat the reaction to reflux. After 15 minutes cool the reaction to 0° C. and slowly quench with a saturated solution of ammonium chloride. Adjust the pH to pH=8 with 4 M hydrochloric acid and filter to remove the aluminum salts. Add brine (300 mL) to the filtrate and extract with ethyl acetate (6×150 mL). Combine the ethyl acetate extracts and wash them with 1 N hydrochloric acid (2×150 mL). Combine and adjust the pH of the 1 N hydrochloric acid washes to pH=8 with sodium bicarbonate and then saturate this solution with sodium bicarbonate. Then extract the saturated sodium bicarbonate solution with ethyl acetate (5×150 mL) and with chloroform (5×150 mL). Combine the organic extracts, dry with magnesium sulfate, filter, and concentrate on a rotary evaporator to yield 2.78 g of the crude product. Add anhydrous tetrahydrofuran (150 mL) to the crude product. Then add di-tert-butyl dicarbonate (5.00 g, 22.9 mmol) to the reaction mixture and stir for 18 h at room temperature under nitrogen. Concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 25% ethyl acetate/hexanes to yield 0.86 g (5%) of [2-(4-hydroxy-phenyl)-2-methyl-propyl]-carbamic acid tert-butyl ester: mass spectrum (ion spray): m/z=266.1 (M+1); 1H NMR (CDCl3): 7.20 (d, 2H), 6.80 (d, 2H), 4.31 (br s, 1H), 3.28 (d, 2H), 1.40 (s, 10H), 1.28 (s, 6H).

reactant | lithium aluminum hydride | 264 mmol, 10.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-hydroxy-phenyl)-2-methyl-propionitrile | 61.4 mmol, 9.90 g | OC1=CC=C(C=C1)C(C#N)(C)C | C10H11NO
reactant | di-tert-butyl dicarbonate | 22.9 mmol, 5.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | [2-(4-hydroxy-phenyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 0.86 g, 5% | C(C)(C)(C)OC(NCC(C)(C)C1=CC=C(C=C1)O)=O | C15H23NO3
